US04735959
4-[(1-(2-Piperidino-phenyl)-1-ethyl)-aminocarbonylmethyl]-benzoic acid ethyl ester
An amount of 5.5 gm (0.014 mol) of 4-[(1-(2-piperidinophenyl)-ethenyl)-aminocarbonylmethyl]-benzoic acid ethyl ester in 110 ml of ethanol was hydrogenated in the presence of 1.5 gm of palladium/charcoal (10%) at 20° C. and a hydrogen pressure of 5 bar. After 30 minutes the catalyst was filtered off over celite, and the filtrate was evaporated in vacuo to a volume of 20 ml. One hundred milliliters of petroleum ether were added, and the mixture was cooled to 0° C.

reactant | 4-[(1-(2-piperidinophenyl)-ethenyl)-aminocarbonylmethyl]-benzoic acid ethyl ester | 0.014 mol, 5.5 gm | C(C)OC(C1=CC=C(C=C1)C(C(=O)N)C(=C)C1=C(C=CC=C1)N1CCCCC1)=O | C24H28N2O3
reactant | hydrogen | [H][H] | H2
solvent | ethanol | 110 ml | C(C)O | C2H6O
catalyst | palladium/charcoal | 1.5 gm | [Pd] | Pd
product | 4-[(1-(2-Piperidino-phenyl)-1-ethyl)-aminocarbonylmethyl]-benzoic acid ethyl ester | C(C)OC(C1=CC=C(C=C1)C(C(=O)N)C(C)C1=C(C=CC=C1)N1CCCCC1)=O | C24H30N2O3
